US07763629B2
Method B: 4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-methoxy-N-methylbenzamide (I-1)
To a solution of (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine (80 mg, 0.263 mmol) in a mixture ethanol/water (¼, 5 mL) were added 4-amino-3-methoxy-N-methylbenzamide (72 mg, 0.394 mmol) followed by a catalytic amount of concentrated HCl (0.04 mL). The reaction mixture was stirred at 90° C. for 24 hours, then cooled to room temperature and basified with saturated aqueous solution of NaHCO3. The mixture was extracted with ethyl acetate, the organic layer was dried (MgSO4) and the residue purified by flash chromatography to give the title compound as a colourless solid (92 mg, 78% yield).

reactant | (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine | 0.263 mmol, 80 mg | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=NN3)CC)C3CCCC3 | C14H17ClN6
reactant | 4-amino-3-methoxy-N-methylbenzamide | 0.394 mmol, 72 mg | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | HCl | 0.04 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol water | 5 mL | C(C)O.O
product | 4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-methoxy-N-methylbenzamide | 92 mg, 78% yield | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC1=C(C=C(C(=O)NC)C=C1)OC)C=NN2)CC | C23H28N8O2
